### PR TITLE
[Merged by Bors] - feat: supporting lemmas for theory of bases in Lie theory

### PR DESCRIPTION
**Pull request by ocfnash**
Split out from other work to simplify review.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Lie/Weights/Cartan.lean [hunk 1]
```diff
@@ -78,6 +78,31 @@ lemma toEnd_pow_apply_mem {χ₁ χ₂ : H → R} {x : L} {m : M}
...
+    {x : L} {m : M} (hx : x ∈ ⨆ χ, ⨆ (_ : χ ∈ s), rootSpace H χ)
+    (hm : m ∈ ⨆ χ, ⨆ (_ : χ ∈ s), genWeightSpace M χ) :
+    ⁅x, m⁆ ∈ ⨆ χ, ⨆ (_ : χ ∈ s), genWeightSpace M χ := by
+  induction hx using LieSubmodule.iSup_induction' with
+  | zero => simp
+  | add _ _ _ _ hu hv => rw [add_lie]; exact add_mem hu hv
+  | mem χ₁ u hu =>
+    by_cases hχ₁ : χ₁ ∈ s; swap
+    · replace hu : u = 0 := by simpa [hχ₁] using hu
+      simp [hu]
```
Comment (dagurtomas) [inline Mathlib/Algebra/Lie/Weights/Cartan.lean]:
```suggestion
    · simp_all
```

File: Mathlib/Algebra/Lie/Weights/Cartan.lean [hunk 2]
```diff
@@ -78,6 +78,31 @@ lemma toEnd_pow_apply_mem {χ₁ χ₂ : H → R} {x : L} {m : M}
...
+    | add _ _ _ _ hv hw => rw [lie_add]; exact add_mem hv hw
+    | mem χ₂ v hv =>
+      by_cases hχ₂ : χ₂ ∈ s; swap
+      · replace hv : v = 0 := by simpa [hχ₂] using hv
+        simp [hv]
+      replace hv : v ∈ genWeightSpace M χ₂ := by simpa [hχ₂] using hv
+      apply LieSubmodule.mem_iSup_of_mem (χ₁ + χ₂)
+      have hχ : χ₁ + χ₂ ∈ s := hs χ₁ hχ₁ χ₂ hχ₂
+      simp only [hχ, iSup_pos]
+      exact lie_mem_genWeightSpace_of_mem_genWeightSpace hu hv
```
Comment (dagurtomas) [inline Mathlib/Algebra/Lie/Weights/Cartan.lean]:
```suggestion
      by_cases hχ₂ : χ₂ ∈ s; swap
      · simp_all
      apply LieSubmodule.mem_iSup_of_mem (χ₁ + χ₂)
      simp_all [lie_mem_genWeightSpace_of_mem_genWeightSpace]
```

File: Mathlib/Algebra/Lie/Weights/Killing.lean [hunk 3]
```diff
@@ -717,6 +726,13 @@ lemma sl2SubmoduleOfRoot_ne_bot (α : Weight K H L) (hα : α.IsNonZero) :
 /-- The collection of roots as a `Finset`. -/
 noncomputable abbrev _root_.LieSubalgebra.root : Finset (Weight K H L) := {α | α.IsNonZero}
 
+omit [IsKilling K L] [IsTriangularizable K H L] [CharZero K] in
+@[simp]
+lemma _root_.LieSubalgebra.isNonZero_coe_root (α : H.root) : (α : Weight K H L).IsNonZero := by
+  have aux := α.property
+  rw [Finset.mem_filter] at aux
+  aesop
```
Comment (dagurtomas) [inline Mathlib/Algebra/Lie/Weights/Killing.lean]:
```suggestion
  aesop
```

File: Mathlib/Algebra/Lie/Subalgebra.lean [hunk 4]
```diff
@@ -536,6 +536,12 @@ instance subsingleton_of_bot : Subsingleton (LieSubalgebra R (⊥ : LieSubalgebr
 theorem subsingleton_bot : Subsingleton (⊥ : LieSubalgebra R L) :=
   show Subsingleton ((⊥ : LieSubalgebra R L) : Set L) by simp
 
+variable {K K'} in
+@[simp] lemma disjoint_toSubmodule :
+    Disjoint (K : Submodule R L) (K' : Submodule R L) ↔ Disjoint K K' := by
+  rw [disjoint_iff, disjoint_iff, ← toSubmodule_inj, inf_toSubmodule, bot_toSubmodule,
+    ← disjoint_iff]
```
Comment (dagurtomas) [inline Mathlib/Algebra/Lie/Subalgebra.lean]:
```suggestion
  simp [disjoint_iff, ← toSubmodule_inj]
```

File: Mathlib/Algebra/Lie/Subalgebra.lean [hunk 5]
```diff
@@ -713,6 +719,19 @@ theorem lieSpan_induction {p : (x : L) → x ∈ lieSpan R L s → Prop}
       lie_mem' := fun ⟨_, hpx⟩ ⟨_, hpy⟩ ↦ ⟨_, lie _ _ _ _ hpx hpy⟩ }
   exact lieSpan_le (K := p) |>.mpr (fun y hy ↦ ⟨subset_lieSpan hy, mem y hy⟩) hx |>.elim fun _ ↦ id
 
+@[simp] lemma lieSpan_neg : lieSpan R L (-s) = lieSpan R L s := by
+  suffices ∀ s : Set L, lieSpan R L (-s) ≤ lieSpan R L s by
+    apply le_antisymm (this s)
+    convert this (-s)
+    simp
```
Comment (dagurtomas) [inline Mathlib/Algebra/Lie/Subalgebra.lean]:
```suggestion
    simpa using this (-s)
```

File: Mathlib/Algebra/Lie/Submodule.lean [hunk 6]
```diff
@@ -501,6 +501,14 @@ theorem mem_inf (x : M) : x ∈ N ⊓ N' ↔ x ∈ N ∧ x ∈ N' := by
 theorem mem_sup (x : M) : x ∈ N ⊔ N' ↔ ∃ y ∈ N, ∃ z ∈ N', y + z = x := by
   rw [← mem_toSubmodule, sup_toSubmodule, Submodule.mem_sup]; exact Iff.rfl
 
+variable {N N'} in
+theorem mem_sup_left {x : M} (hx : x ∈ N) : x ∈ N ⊔ N' :=
+  (mem_sup _ _ _).mpr ⟨x, hx, 0, by simp, by simp⟩
```
Comment (dagurtomas) [inline Mathlib/Algebra/Lie/Submodule.lean]:
```suggestion
  le_sup_left (a := N) hx
```
I feel like we're missing a typeclass that could reduce a lot of duplication like this, something like compatible `SetLike` + `Lattice` classes

File: Mathlib/Algebra/Module/LinearMap/Defs.lean [hunk 7]
```diff
@@ -782,6 +783,11 @@ instance : Zero (M →ₛₗ[σ₁₂] M₂) :=
       map_add' := by simp
       map_smul' := by simp }⟩
 
+@[simp] lemma coe_zero_iff (f : M →ₛₗ[σ₁₂] M₂) : ⇑f = 0 ↔ f = 0 := by
+  change _ ↔ f = ⟨⟨0, _⟩, _⟩
+  obtain ⟨⟨f, -⟩, -⟩ := f
+  simp
```
Comment (dagurtomas) [inline Mathlib/Algebra/Module/LinearMap/Defs.lean]:
```suggestion
  aesop
```

File: Mathlib/LinearAlgebra/LinearIndependent/Defs.lean [hunk 8]
```diff
@@ -702,6 +702,18 @@ variable [Ring R] [AddCommGroup M] [AddCommGroup M']
...
+  intro f g h
+  simp only [Finsupp.linearCombination_apply, Pi.neg_apply, smul_neg, Finsupp.sum_neg, neg_inj] at h
+  ext m
+  exact DFunLike.congr_fun (hv h) m
+
+@[simp] theorem linearIndependent_neg_iff :
+    LinearIndependent R (-v) ↔ LinearIndependent R v := by
+  refine ⟨fun h ↦ ?_, LinearIndependent.neg⟩
+  convert h.neg
+  simp
```
Comment (dagurtomas) [inline Mathlib/LinearAlgebra/LinearIndependent/Defs.lean]:
```suggestion
  simpa using h.neg
```

File: Mathlib/Order/SupIndep.lean [hunk 9]
```diff
@@ -439,6 +441,25 @@ theorem iSupIndep_pair {i j : ι} (hij : i ≠ j) (huniv : ∀ k, k = i ∨ k =
...
+lemma iSupIndep_fin_three {α : Type*} [CompleteLattice α] {f : Fin 3 → α} :
+    iSupIndep f ↔
+      Disjoint (f 0) (f 1 ⊔ f 2) ∧
+      Disjoint (f 1) (f 2 ⊔ f 0) ∧
+      Disjoint (f 2) (f 0 ⊔ f 1) := by
+  rw [iSupIndep_def, sup_comm (f 2) (f 0)]
+  refine ⟨fun h ↦ ⟨?_, ?_, ?_⟩, fun ⟨h₀, h₁, h₂⟩ i ↦ ?_⟩
+  · convert h 0; simp
+  · convert h 1; simp
+  · convert h 2; simp
```
Comment (dagurtomas) [inline Mathlib/Order/SupIndep.lean]:
```suggestion
  · simpa using h 0
  · simpa using h 1
  · simpa using h 2
```

File: Mathlib/Order/SupIndep.lean [hunk 10]
```diff
@@ -490,6 +511,49 @@ theorem iSupIndep_iff_supIndep_univ [Fintype ι] {f : ι → α} :
...
+    rw [s₀.iSup_insert j f, disjoint_comm, sup_comm]
+    exact disjoint_sup_right_of_disjoint_sup_right ih this
+
+lemma iSupIndep.mem_of_biSup_eq_top {f : ι → α} {s : Set ι}
+    (h₁ : iSupIndep f) (h₂ : ⨆ i ∈ s, f i = ⊤) {i : ι} (hi : f i ≠ ⊥) :
+    i ∈ s := by
+  specialize h₁ i
+  by_contra contra
+  replace h₁ : Disjoint (f i) (⨆ i ∈ s, f i) := h₁.mono_right <| biSup_mono <| by aesop
+  aesop
```
Comment (dagurtomas) [inline Mathlib/Order/SupIndep.lean]:
```suggestion
  by_contra contra
  replace h₁ : Disjoint (f i) (⨆ i ∈ s, f i) := (h₁ i).mono_right <| biSup_mono <| by aesop
  aesop
```

**Review by dagurtomas — COMMENTED** [review]
Mostly minor comments, LGTM

File: Mathlib/Algebra/Lie/Submodule.lean (hunk 6 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/Submodule.lean]: Agreed.
